US04585789
3-(4-Acetoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid (58 mg) was dissolved in acetone (2 ml), and a solution of triethylamine (32 μl) in acetone (5 ml) was added with ice-cooling. Then, a solution of ethyl chlorocarbonate (24 μl) in acetone (2 ml) was added dropwise slowly. The mixture was stirred with ice-cooling for 30 minutes, and a solution of sodium azide (19.5 mg) in water (1 ml) was added. The mixture was stirred with ice-cooling for 1 hour, poured into ice water, and extracted with ether. After removal of the ether by distillation, benzene (5 ml) was added, and the mixture was heated under reflux for 1 hour. After cooling, methanol (2 ml) was added, and the mixture was allowed to stand at room temperature overnight. The solvent was distilled off to give 56 mg of a crude product. This was subjected to preparative silica gel thin layer chromatography (0.5 mm×3, Merck) using chloroform-ethyl acetate (5:1 ) as the developing solvent to give methyl N-2-(4-acetoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)ethylcarbamate (43 mg).

reactant | 3-(4-Acetoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid | 58 mg | C(C)(=O)OC1=C(C(OC1=O)CCC(=O)O)C1=CC=CC=C1 | C15H14O6
reactant | triethylamine | 32 μl | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 24 μl | C(OCC)(=O)Cl | C3H5ClO2
reactant | sodium azide | 19.5 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
solvent | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
product | methyl N-2-(4-acetoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)ethylcarbamate | 43 mg | C(C)(=O)OC1=C(C(OC1=O)CCNC(OC)=O)C1=CC=CC=C1 | C16H17NO6
